US05919780
(8-Chloro-dibenzo[b,f][1,4]thiazepin-11-yl-pyridin-3-ylmethyl-amine
A solution of 682 mg (2.5 mmol) of 8-chlorodibenzo[b,f]-1,4-thiazepin-11(10H)-thione (Polivka Z., et al., Coll. Czech. Chem. Comm., 48:1465 (1983)) in 15 mL of 2-ethoxyethanol was treated with 0.5 mL (5.0 mmol) of 3-(aminomethyl)pyridine and heated at reflux overnight. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed three times with H2O, then saturated NaHCO3 solution and saturated NaCl solution. Drying over MgSO4 and removal of the solvent under reduced pressure left the crude product. Chromatography on silica gel, eluting with CHCl3 /MeOH (98/2) following by recrystallization from CHCl3 /hexane gave 600 mg (69.8% yield) of the product as a white solid, mp 152-153° C. The structure was confirmed by NMR and mass spectroscopy. (m+H)+ =352.

reactant | 8-chlorodibenzo[b,f]-1,4-thiazepin-11(10H)-thione | 2.5 mmol, 682 mg | ClC1=CC2=C(SC3=C(C(N2)=S)C=CC=C3)C=C1 | C13H8ClNS2
reactant | 3-(aminomethyl)pyridine | 5.0 mmol, 0.5 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 8-Chloro-dibenzo[b,f][1,4]thiazepin-11-yl-pyridin-3-ylmethyl-amine | 600 mg, 69.8% yield | ClC1=CC2=C(SC3=C(C(=N2)NCC=2C=NC=CC2)C=CC=C3)C=C1 | C19H14ClN3S
